US07355084B2
2 g of catalyst A (3% Ru/SiO2) were placed in a 300 ml pressure reactor. The reactor was subsequently charged with 100 g of diisononyl phthalate (DINP). The hydrogenation was carried out at 120° C. and a pressure of 200 bar using pure hydrogen. The hydrogenation was continued until no more hydrogen was taken up and the reactor was subsequently vented. The conversion of the diisononyl phthalate was 100%. Diisononyl cyclohexane-1,2-dicarboxylate was obtained with a selectivity of over 99%.

reactant | diisononyl phthalate | 100 g | C(C=1C(C(=O)OCCCCCCC(C)C)=CC=CC1)(=O)OCCCCCCC(C)C | C26H42O4
reactant | hydrogen | [H][H] | H2
product | Diisononyl cyclohexane-1,2-dicarboxylate | C1(C(CCCC1)C(=O)OCCCCCCC(C)C)C(=O)OCCCCCCC(C)C | C26H48O4
